US06777422B2
B. (R)-4-Methyl-1-o-tolyl-3,4-dihydro-isoquinoline
(R)-2-Methyl-N-(2-phenyl-propyl)-benzamide (2.1 g; 8.29 mmol) is added all at once to polyphosphoric acid (pre-heated to 140°) and the resulting mixture is stirred at 140° C. for 1 hour. The mixture is poured onto ice, made basic with concentrated NH4OH, and diluted with dichloromethane (100 mL). The phases are separated, and the aqueous phase extracted with dichloromethane (3×70 mL). The combined organics are washed with water (1×50 mL) and brine (1×50 mL), dried over magnesium sulfate, and evaporated in vacuo. The residue is purified by flash chromatography over silica gel (eluting with ether) to give the product as a yellow oil.

reactant | (R)-2-Methyl-N-(2-phenyl-propyl)-benzamide | 8.29 mmol, 2.1 g | CC1=C(C(=O)NC[C@H](C)C2=CC=CC=C2)C=CC=C1 | C17H19NO
reactant | NH4OH | [NH4+].[OH-]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (R)-4-Methyl-1-o-tolyl-3,4-dihydro-isoquinoline | C[C@H]1CN=C(C2=CC=CC=C12)C1=C(C=CC=C1)C | C17H17N
